US05859084
ii) 4-(N-formylaminomethyl)benzophenone
150 g of formamide are stirred together with 90 mL of 30%ig sodium methylate solution for 8 hours under slight vacuum at 80° C. To the resulting solution of sodium diformylamide there are added 150 g of 4-chloromethylbenzophenone. After 15 hours the suspension originally present has changed to a clear solution which is added to 1l of 10%ig sodium carbonate solution. A solid material precipitates, which is filtered off in vacuo and dried.

reactant | formamide | 150 g | C(=O)N | CH3NO
reactant | sodium diformylamide | C(=O)[N-]C=O.[Na+]
reactant | 4-chloromethylbenzophenone | 150 g | ClCC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C14H11ClO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | sodium methylate | 90 mL | C[O-].[Na+]
product | 4-(N-formylaminomethyl)benzophenone | C(=O)NCC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C15H13NO2
